US07294636B2
4-(3-Methyl-[1,2,4]oxadiazol-5-yl)-piperidine hydrochloride
Crude tert-butyl 4-(3-methyl-1,2,4-oxadiazol-5-yl)piperidine-1-carboxylate (5.73 g, 21.3 mmol) was dissolved in MeOH (100 mL) and a premixed solution of acetyl chloride (1.53 mL, 42.8 mmol) in MeOH (10 mL) was added and the mixture heated to 60° C. for 1 hour, then the solvents were evaporated and the resultant gum triturated with dichloromethane/diethyl ether (1:1) to give a cream solid which was filtered, washed with diethyl ether and dried, to give the title compound as a solid (1.98 g, 55% yield); MS: 168 (MH+).

reactant | tert-butyl 4-(3-methyl-1,2,4-oxadiazol-5-yl)piperidine-1-carboxylate | 21.3 mmol, 5.73 g | CC1=NOC(=N1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H21N3O3
reactant | acetyl chloride | 42.8 mmol, 1.53 mL | C(C)(=O)Cl | C2H3ClO
solvent | MeOH | 100 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | 4-(3-Methyl-[1,2,4]oxadiazol-5-yl)-piperidine hydrochloride | 1.98 g, 55% yield | Cl.CC1=NOC(=N1)C1CCNCC1 | InChI=1S/C8H13N3O.ClH/c1-6-10-8(12-11-6)7-2-4-9-5-3-7;/h7,9H,2-5H2,1H3;1H
